US09108938B2
2,3-Dichloro-N-(2-morpholin-4-yl-2-pyridin-3-yl-ethyl)-benzamide
From 2,3-dichlorobenzoic acid and (2-morpholin-4-yl-2-pyridin-3-ylethyl)amine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (2-morpholin-4-yl-2-pyridin-3-ylethyl)amine | N1(CCOCC1)C(CN)C=1C=NC=CC1 | C11H17N3O
product | 2,3-Dichloro-N-(2-morpholin-4-yl-2-pyridin-3-yl-ethyl)-benzamide | ClC1=C(C(=O)NCC(C=2C=NC=CC2)N2CCOCC2)C=CC=C1Cl | C18H19Cl2N3O2
